US03960904
To a solution of approximately 10 parts of 3β-acetoxy-acetoxy-6-(dibutylaminomethyl)cholest-5-ene in 80 parts of methanol is added 10 parts of aqueous 20% potassium carbonate. The resultant mixture is heated to the boiling point under reflux for 2 hours, whereupon 100 parts of water is introduced. The oil which separates is extracted with hexane. The extract is washed with water, dried over anhydrous sodium sulfate, and stripped of solvent by vacuum distillation. The residual oil is taken up in benzene; and the benzene solution is chromatographed on alumina, using benzene and mixtures thereof with increasing amounts of ethanol as developing solvents. From an eluate comprising 2% ethanol in benzene, on evaporation of solvent, 6-(dibutylaminomethyl)cholest-5-en-3β-ol is obtained as the residue.

reactant | 3β-acetoxy-acetoxy-6-(dibutylaminomethyl)cholest-5-ene | C(C)(=O)O[C@@H]1CC2=C(C[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(COC(C)=O)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)CN(CCCC)CCCC | C40H69NO4
reactant | methanol | CO | CH4O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 6-(dibutylaminomethyl)cholest-5-en-3β-ol | C(CCC)N(CCCC)CC=1C[C@H]2[C@@H]3CC[C@H]([C@@H](CCCC(C)C)C)[C@]3(CC[C@@H]2[C@]2(CC[C@@H](CC12)O)C)C | C36H65NO
